Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
atenolol / nifedipine / hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
lightheadedness, numbness, tingling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right-handed man with a history of
HTN, HLD, CAD s/p 6+ stents ___ years ago, prostate cancer s/p
radical prostatectomy, and recent left occiptal stroke on 
___
who presented to ___ after an episode of severe lightheadedness
this morning, and had a CT showing "hemorrhagic conversion" in
area of prior occipital infarct. Imaging was notable only for
minimal petechial hemorrhage in area of pre-existing petechial
hemorrhage. 

Regarding his recent stroke, on ___ he developed a significant
sudden-onset left frontal headache which he felt was a sinus
infection. He was precribed antibiotics which didn't help. He
presented to ___ on ___ and a head CT was 
done
which showed a left occipital hypodensity. Exam found right
homonomyous hemianopia. He was admitted and MRI showed large 
left
occipital infarct, as well as smaller right occipital infarct,
and older right cerebellar infarct -- which radiology noted was
consistent with embolic phenomenon. He was seen by neurology, 
Dr.
___, as an inpatient. A cardiac echo was done and negative
for embolic source, and he was discharged on ___ on his prior
home medications of aspirin and Plavix, as well as several
antihypertensives. There were no arrangements made for Holter
monitoring, nor any ___ with neurology scheduled.

He returned home and felt well until last ___ when he had a 
15
second-long episode of right torso numbness and tingling
paresthesias which progressed from his shoulder to his waist,
associated with very mild lightheadedness. 

This morning he was sitting eating breakfast when at ~5:15AM he
suddenly felt extremely lightheaded and had to put his head 
down.
He told his wife he ___ feel right" and they quickly called
___. By the time paramedics arrived he was beginning to feel
better and was able to walk down the stairs on his own accord. 
He
was again taken to ___, and says that he felt
near his baseline by ___ hours after onset - though says he's 
not
sure as he has not yet gotten up out of bed. 

He has had long-standing difficulties with his blood pressure
control and medication management. He has been on clonidine 
0.3mg
PO BID since ___, lisinopril 40mg *and* losartan 100mg since
___, isosorbide mononitrate ER 60mg daily since ___,
hydralazine 25mg TID since ___, and bisoprolol 5mg daily 
since
___. His PCP discovered the ___ co-prescription and
corrected this several weeks ago. On medication reconciliation
today, Mr. ___ informs me that he has only been taking
hydralazine 25mg once daily in the morning, rather than TID as
prescribed. He says that his blood pressures are typically
165-170 in the morning before taking his medicaitons, 130-140
shortly after meds, then 170s at ___, and back down to ~140s
after his evening clonidine dose. 
 
Past Medical History:
Recent left>right occiptal stroke on ___ 
HTN
HLD
CAD s/p 6+ stents ___ years ago
Prostate cancer s/p radical prostatectomy
Gout
 
Social History:
___
Family History:
Older brother with stroke. Father died of MI at age ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: T:98.6   HR:58   BP:194/87   RR:13   SaO2:98%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and sluggish. EOMI without
nystagmus. Right homonymous hemianopia. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. Romberg with sway. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      2     2
R   2            1      2     2 
Plantar response was flexor bilaterally.

-Coordination: Moderate dysmetria on left FNF. Slow and
uncoordinated rapid finger taps on left. Rapid toe taps on left
relatively impaired cadence compared to right, but left
toe-to-finger with good accuracy. 

-Gait: Wide-based stance. Unsteady, hesitant gait, but able to
walk carefully unassisted.

DISCHARGE PHYSICAL EXAM
=======================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL.  EOMI without
nystagmus. Right homonymous hemianopia. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. 

-Coordination: Moderate dysmetria on left FNF. Slow and
uncoordinated rapid finger taps on left. Rapid toe taps on left
relatively impaired cadence compared to right, but left
toe-to-finger with good accuracy. 

-Gait: able to walk unassisted
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:23PM BLOOD WBC-8.9 RBC-3.98* Hgb-12.2* Hct-35.9* 
MCV-90 MCH-30.7 MCHC-34.0 RDW-13.2 RDWSD-43.4 Plt ___
___ 11:23PM BLOOD ___ PTT-27.2 ___
___ 11:23PM BLOOD Plt ___
___ 11:23PM BLOOD Glucose-141* UreaN-22* Creat-1.1 Na-140 
K-3.9 Cl-103 HCO3-25 AnGap-12
___ 11:23PM BLOOD Calcium-9.5 Phos-3.9 Mg-1.6

DISCHARGE LABS
==============
___ 07:30AM BLOOD WBC-11.5* RBC-4.56* Hgb-13.7 Hct-41.3 
MCV-91 MCH-30.0 MCHC-33.2 RDW-13.2 RDWSD-44.4 Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD ___ PTT-27.5 ___
___ 07:30AM BLOOD Glucose-133* UreaN-15 Creat-1.1 Na-140 
K-4.1 Cl-100 HCO3-22 AnGap-18
___ 07:30AM BLOOD Calcium-10.3 Phos-3.8 Mg-1.6

IMAGING
=======
CTA HEAD ___ C & RECONS Study Date of ___  
IMPRESSION: 
1. The left V1 segment is occluded to the level of C7. 
2. Hypoattenuation in the superior aspect of the left cerebellar 
hemisphere is more conspicuous than on the preceding outside 
hospital CT and is new since the ___onsistent with acute/subacute infarction. 
3. The distal left P2 segment is occluded, likely the cause of 
recent left 
occipital lobe infarction.  MRI is more sensitive for the 
detection of acute and subacute infarction. 
4. Gyriform hyperattenuation in the location of prior left 
occipital lobe 
infarction more likely reflects pseudolaminar necrosis than 
subarachnoid  hemorrhage. 
5. There is moderate to severe proximal right V4 segment 
stenosis with ___ terminus configuration of the right 
vertebral artery.

MR HEAD W/O CONTRAST Study Date of ___  
IMPRESSION:
1. Evolving early subacute left superior cerebellar artery 
territory 
infarction.  No significant mass effect. 
2. Evolving late subacute left posterior cerebral artery 
territory infarction with pseudolaminar necrosis and subtle 
hemorrhagic transformation.  No large parenchymal hemorrhage at 
this time.  No significant mass effect. 
3. Unchanged occlusion of the proximal left V1 segment and 
distal left P2  segment. 
4. Unchanged moderate to severe right V4 segment origin 
stenosis.  Mild right  V1 segment origin and V2 segment 
stenosis. 
5. Additional findings described above.
 
Brief Hospital Course:
Mr. ___ is a ___ year old right-handed man with a past 
medical history of HTN, HLD, CAD s/p 6+ stents, prostate cancer 
s/p prostatectomy, and recent left>right occipital strokes on 
___ who presented with transient tingling, numbness in his 
right shoulder to waist, and lightheadedness. Initial NIHSS 3 
(limb ataxia, chronic visual fields). He was found to have 
subacute left superior cerebellar and left ___ cerebellar 
infarcts. MRI brain also showed late subacute infarcts of the 
right parieto-occipital lobe with pseudolaminar necrosis and 
subtle hemorrhagic transformation. There was no large 
parenchymal hemorrhage at this time.
 
Etiology concerning for embolic from the V1 segment of the left 
vertebral versus cardioembolic. At time of discharge, exam 
notable for right homonymous hemianopia, bilateral upper 
extremity ataxia (R>L). Risk factors notable for A1C 6.1, LDL 
86. TTE was recently performed at ___, was not repeated. 
Continued home ASA 325 mg, plavix 75 mg, increased home 
atorvastatin from 60 mg to 80 mg. Held home isosorbide, 
hydralazine, bisoprolol, reduced home lisinopril (40 mg daily to 
10 mg daily). SBP prior to discharge 130-160, allowed to 
autoregulate. Neurology ___ and ___ of hearts monitor to 
be set up by PCP per patient preference, lives far away from 
___. Patient counseled to not drive prior to discharge.

TRANSITIONAL ISSUES
===================
[] please arrange ___ as outpatient, patient preference to not 
have set up at ___ given far commute from his home
[] continue to titrate home BP medications, goal normotension, 
discharged with reduced home lisinopril only
[] please perform formal visual field testing
[] please evaluate for prism glasses to assist vision 
impairments

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 86) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HydrALAZINE 25 mg PO DAILY 
2. bisoprolol fumarate 5 mg oral DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Allopurinol ___ mg PO DAILY 
7. Atorvastatin 60 mg PO DAILY 
8. cloNIDine HCl 0.3 mg oral BID 
9. Pantoprazole 20 mg PO DAILY 
10. Aspirin 325 mg PO DAILY 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Cinnamon (cinnamon bark) ___ mg oral DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  Aspirin 325 mg PO DAILY  
5.  Cinnamon (cinnamon bark) ___ mg oral DAILY  
6.  cloNIDine HCl 0.3 mg oral BID  
7.  Clopidogrel 75 mg PO DAILY  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Pantoprazole 20 mg PO DAILY  
10. HELD- bisoprolol fumarate 5 mg oral DAILY  This medication 
was held. Do not restart bisoprolol fumarate until instructed by 
your doctor
11. HELD- HydrALAZINE 25 mg PO DAILY  This medication was held. 
Do not restart HydrALAZINE until instructed by your doctor
12. HELD- Isosorbide Mononitrate (Extended Release) 60 mg PO 
DAILY  This medication was held. Do not restart Isosorbide 
Mononitrate (Extended Release) until instructed by your doctor
13.Outpatient Occupational Therapy
home, outpatient OT
ICD 10: I___.9
14.Outpatient Physical Therapy
home, outpatient ___
ICD 10:  ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#subacute left superior cerebellar infarct
#subacute left ___ cerebellar infarct
#subacute right parieto-occipital infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of numbness and tingling 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 1) high blood pressure
 2) high cholesterol
 3) diabetes
 4) history of smoking

 We are changing your medications as follows:  
 1) increasing the dose of your atorvastatin (60 to 80 mg daily)

Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___